US05900475
Preparation of (3-chloropropyl)dioctylmethylammonium bromide
A one-liter, 3-necked, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged with N,N-dioctylmethylamine (202.48 grams, 0.79 moles), 1-bromo-3-chloropropane (124.8 grams, 0.79 moles) and methanol (250 mL). Reaction was maintained at 65° C. for two days. Methanol was removed by rotary evaporation under reduced pressure to yield an oil. To the oil was added ethylmethylketone (50 mL) and hexane (200 mL) causing a white solid to slowly form. The solvent was decanted from the mixture. The remaining solid was washed with hexane (50 mL) two times. The solid was placed in a vacuum oven at 35° C. for 24 hours. Yield 259 grams of a waxy solid (0.625 moles, 79%).

reactant | N,N-dioctylmethylamine | 0.79 moles, 202.48 grams | C(CCCCCCC)N(CCCCCCCC)C | C17H37N
reactant | 1-bromo-3-chloropropane | 0.79 moles, 124.8 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 250 mL | CO | CH4O
reactant | ethylmethylketone | 50 mL | C(C)C(=O)C | C4H8O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | (3-chloropropyl)dioctylmethylammonium bromide | [Br-].ClCCC[N+](C)(CCCCCCCC)CCCCCCCC | InChI=1S/C20H43ClN.BrH/c1-4-6-8-10-12-14-18-22(3,20-16-17-21)19-15-13-11-9-7-5-2;/h4-20H2,1-3H3;1H/q+1;/p-1
